US04894386
Methanol (10 ml) was added to a solution of indole-6-carboxylic acid (20.0 g) and triphenylphosphine (65.2 g) in tetrahydrofuran (420 ml) at 0° under a nitrogen atmosphere, followed by slow addition of diethyl azodicarboxylate (43.3 g). The reaction was allowed to warm to 25° and stir for 1 hr. The solvent was evaporated and the residue was dissolved in methylene chloride and preadsorbed onto silica gel (200 g, 70-230 mesh) by evaporation of methylene chloride. The crude product preadsorbed on silica gel was purified by flash chromatography on silica gel, eluting with 1:9 ethyl acetate:hexane to give methyl indole-5-carboxylate (21.7 g, 100%) as a white powder: NMR (80 MH2, CDCl3): 3.93(s, 3H, OCH3), 6.63 (m,1H, H3 -indole), 7.91(dd, 1H, H6 -indole)

reactant | Methanol | 10 ml | CO | CH4O
reactant | indole-6-carboxylic acid | 20.0 g | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | triphenylphosphine | 65.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 43.3 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 420 ml | O1CCCC1 | C4H8O
product | methyl indole-5-carboxylate | 21.7 g, 100% | N1C=CC2=CC(=CC=C12)C(=O)OC | C10H9NO2
